US20010056179A1
A mixture of racemic 5-chloro-2-aminotetraline-2-carboxylic acid (402 mg, 1.78 mmole), triethylamine (0.38 ml, 2.73 mmole), 9-fluorenylmethyl succinimidyl carbonate (Fmoc-OSu, 904 mg, 2.68 mmole) in acetonitrile (20 ml) and water (20 ml) was stirred at room temperature for two days. TLC analysis of the reaction after two days indicated the presence of starting material amino acid. 9-fluorenylmethyl succinimidyl carbonate (0.12 g) and triethylamine (0.1 ml) was added and the mixture was stirred at room temperature for another day. The reaction mixture was concentrated in vacuo to remove most of the acetonitrile, acidified to pH ˜3 with 10% aqueous citric acid solution, and the white emulsion extracted three times with ethyl acetate. The combined organic layers were washed with water, brine, dried over magnesium sulfate. Filtration and concentration gave a crude oil which was purified by column chromatography (eluted with 3→6→8% methanol/methylene chloride) to give racemic Fmoc-5-chloro-2-aminotetraline-2-carboxylic acid (540 mg, 68% yield) as a white solid. HRMS (EI): C26H22ClNO4 (M) calc. 447.1237, observed: 447.1234.

reactant | racemic 5-chloro-2-aminotetraline-2-carboxylic acid | 1.78 mmole, 402 mg | ClC1=C2CCC(CC2=CC=C1)(C(=O)O)N | C11H12ClNO2
reactant | triethylamine | 2.73 mmole, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 9-fluorenylmethyl succinimidyl carbonate | 2.68 mmole, 904 mg | C(OCC1C2=CC=CC=C2C=2C=CC=CC12)(ON1C(CCC1=O)=O)=O | C19H15NO5
reactant | 9-fluorenylmethyl succinimidyl carbonate | 0.12 g | C(OCC1C2=CC=CC=C2C=2C=CC=CC12)(ON1C(CCC1=O)=O)=O | C19H15NO5
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
product | racemic Fmoc-5-chloro-2-aminotetraline-2-carboxylic acid | 540 mg, 68% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C1C(CCC2=C(C=CC=C12)Cl)(C(=O)O)N | C26H22ClNO4
